US07163937B2
A sample of tert-butyl (1R,3R,4S)-4-((S)-3-amino-2-oxopyrrolidin-1-yl)-3-(ethylsulfonylmethyl)cyclohexylcarbamate (100 mg, 0.25 mmol) in DMF (10 mL) was charged with 3-(trifluoromethyl)benzoic acid (57 mg, 0.29 mmol), N,N-diethylisopropylamine (0.05 mL, 0.29 mmol), and HATU (114 mg, 0.29 mmol). The reaction was stirred for 48 h at RT and then partitioned between EtOAc and sat. NaHCO3; the aqueous phase was back extracted with EtOAc (1×). The organic phases were combined, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo to afford tert-butyl (1R,3R,4S)-3-(ethylsulfonylmethyl)-4-((S)-2-oxo-3-(3-(trifluoromethyl)benzamido)pyrrolidin-1-yl)cyclohexylcarbamate. MS found: (M+H)+=578.

reactant | tert-butyl (1R,3R,4S)-4-((S)-3-amino-2-oxopyrrolidin-1-yl)-3-(ethylsulfonylmethyl)cyclohexylcarbamate | 0.25 mmol, 100 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CS(=O)(=O)CC)=O | C18H33N3O5S
reactant | 3-(trifluoromethyl)benzoic acid | 0.29 mmol, 57 mg | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | N,N-diethylisopropylamine | 0.29 mmol, 0.05 mL | C(C)N(CC)C(C)C | C7H17N
reactant | HATU | 0.29 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl (1R,3R,4S)-3-(ethylsulfonylmethyl)-4-((S)-2-oxo-3-(3-(trifluoromethyl)benzamido)pyrrolidin-1-yl)cyclohexylcarbamate | C(C)S(=O)(=O)C[C@@H]1C[C@@H](CC[C@@H]1N1C([C@H](CC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)NC(OC(C)(C)C)=O | C26H36F3N3O6S
